US09034899B2
To a solution of (3-bromo-benzyl)-methyl-amine (3.0 g, 15.0 mmol) in methylene chloride (60 mL) was added diisopropylethylamine (5.2 mL, 30.0 mmol). The reaction mixture was cooled to 0° C. and treated with 2-bromo-1-p-tolyl-ethanone (3.19 g, 15.0 mmol) portionwise over a period of 10 minutes. The reaction mixture was warmed to room temperature and stirred for 4 hours. The reaction mixture was washed with water (3×), dried over sodium sulfate, filtered, and the solvent was evaporated to afford 2-((3-bromobenzyl)(methyl)amino)-1-p-tolylethanone (4.89 g, 98%) as a viscous, orange oil: 1H NMR (CDCl3, 500 MHz) δ 7.85 (d, J=8.2 Hz, 2H), 7.51 (br s, 1H), 7.38 (d, J=7.9 Hz, 1H), 7.28-7.23 (m, 3H), 7.17 (t, J=7.8 Hz, 1H), 3.78 (s, 2H), 3.63 (s, 2H), 2.41 (s, 3H), 2.35 (s, 3H).

reactant | (3-bromo-benzyl)-methyl-amine | 15.0 mmol, 3.0 g | BrC=1C=C(CNC)C=CC1 | C8H10BrN
reactant | diisopropylethylamine | 30.0 mmol, 5.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-bromo-1-p-tolyl-ethanone | 15.0 mmol, 3.19 g | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 2-((3-bromobenzyl)(methyl)amino)-1-p-tolylethanone | 4.89 g, 98% | BrC=1C=C(CN(CC(=O)C2=CC=C(C=C2)C)C)C=CC1 | C17H18BrNO
